US04725616
4. 6-Chlorooxindole
In an analogous manner 4- and 6-fluoro- and bromooxindoles are prepared, as well as 7-fluorooxindole, 7-bromooxindole, 7-methyloxindole, 4,6-difluorooxindole, 4,7-dichlorooxindole, 5,7-difluorooxindole, 5-n-butyl-7-fluorooxindole, 7-cyclohexyloxindole and 7-cyclopropyloxindole.

reactant | 7-fluorooxindole | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
reactant | 7-bromooxindole | BrC=1C=CC=C2CC(NC12)=O | C8H6BrNO
reactant | 7-methyloxindole | CC=1C=CC=C2CC(NC12)=O | C9H9NO
reactant | 4,6-difluorooxindole | FC1=C2CC(NC2=CC(=C1)F)=O | C8H5F2NO
reactant | 4,7-dichlorooxindole | ClC1=C2CC(NC2=C(C=C1)Cl)=O | C8H5Cl2NO
reactant | 5,7-difluorooxindole | FC=1C=C2CC(NC2=C(C1)F)=O | C8H5F2NO
reactant | 5-n-butyl-7-fluorooxindole | C(CCC)C=1C=C2CC(NC2=C(C1)F)=O | C12H14FNO
reactant | 7-cyclohexyloxindole | C1(CCCCC1)C=1C=CC=C2CC(NC12)=O | C14H17NO
reactant | 7-cyclopropyloxindole | C1(CC1)C=1C=CC=C2CC(NC12)=O | C11H11NO
product | 6-Chlorooxindole | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
